US07005432B2
5-(3,4-Dihydro-naphthalen-2-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
Tetrakis(triphenylphosphine)palladium (0.02 g, 0.017 mmol), biphenyl-2-yl-dicyclohexyl-phosphane (0.005 g, 0.014 mmol), K3PO4 (0.21 g, 1 mmol) and 3,4-dihydro-naphthalene-2-boronic acid (0.13 g, 0.7 mmol) were mixed in degassed toluene (2 ml). 5-Chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine (0.1 g, 0.48 mmol) was added and the mixture was refluxed for 24 hours. After further addition of tetrakis(triphenylphosphine)palladium (0.02 g, 0.017 mmol), biphenyl-2-yl-dicyclohexyl-phosphane (0.005 g, 0.014 mmol) and 3,4-dihydro-naphthalene-2-boronic acid (0.13 g, 0.7 mmol) reflux was continued for another 12 hours. After removal of the solvent in vacuo the residue was dissolved in AcOEt, washed with H2O, dried (Na2SO4) and concentrated in vacuo. The residue was chromatographed over silica gel [gradient CH2Cl2 to 40% (CH2Cl2—MeOH—NH4OH 90:10:1)] to provide a white foam which was dissolved in MeOH (2 ml). HCl-Et2O was added to provide the title compound (0.098 g, 40%) as a light yellow solid, MS: m/e=303.3 (M+).

reactant | K3PO4 | 1 mmol, 0.21 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 3,4-dihydro-naphthalene-2-boronic acid | 0.7 mmol, 0.13 g | C1=C(CCC2=CC=CC=C12)B(O)O | C10H11BO2
reactant | 5-Chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | 0.48 mmol, 0.1 g | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
reactant | 3,4-dihydro-naphthalene-2-boronic acid | 0.7 mmol, 0.13 g | C1=C(CCC2=CC=CC=C12)B(O)O | C10H11BO2
reactant | HCl Et2O | Cl.CCOCC
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 2 ml | CO | CH4O
catalyst | Tetrakis(triphenylphosphine)palladium | 0.017 mmol, 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium | 0.017 mmol, 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | biphenyl-2-yl-dicyclohexyl-phosphane | 0.014 mmol, 0.005 g | C1(=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1=CC=CC=C1 | C24H31P
catalyst | biphenyl-2-yl-dicyclohexyl-phosphane | 0.014 mmol, 0.005 g | C1(=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1=CC=CC=C1 | C24H31P
product | 5-(3,4-Dihydro-naphthalen-2-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | 0.098 g, 40% | Cl.C1=C(CCC2=CC=CC=C12)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C19H18N4.ClH/c1-14-20-8-9-23(14)13-19-11-18(12-21-22-19)17-7-6-15-4-2-3-5-16(15)10-17;/h2-5,8-12H,6-7,13H2,1H3;1H
